US06083951
Fuming nitric acid (0.8 ml) was added over 10 minutes to a stirred solution of 4'-isobutyl-2-biphenylsulphonyl chloride (3.09 g) in acetic anhydride (18 ml) at -20° C. The solution was kept at -20° C. for 1.5 hours and then allowed to warm to ambient temperature. The solution was stirred for 1.5 hours and then added to ice (300 g) with vigorous sextracted with ether 30 minutes and extracted with ether (3×100 ml) while still below 10° C. The ethereal solution was dried (MgSO4) and the solvent was removed by evaporation. The resulting oil was purified by flash chromatography, eluting with ethyl acetate/hexane (1:9 v/v), to give 4'-isobutyl-3'-nitro-2-biphenylsulphonyl chloride (2.01 g); 1H NMR (CDCl3): 0.95 (d,6H), 1.9-2.05 (m,1H), 2.9 (d,2H), 7.35-7.5 (m,2H), 7.6 (d,1H), 7.7 (d,1H), 7.8 (t,1H), 8.0 (s,1H), 8.25 (d,1H); mass spectrum (EI): 353(M+).

reactant | nitric acid | 0.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4'-isobutyl-2-biphenylsulphonyl chloride | 3.09 g | C(C(C)C)C1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)Cl | C16H17ClO2S
reactant | ether | CCOCC | C4H10O
solvent | acetic anhydride | 18 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4'-isobutyl-3'-nitro-2-biphenylsulphonyl chloride | 2.01 g | C(C(C)C)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)Cl)[N+](=O)[O-] | C16H16ClNO4S
